US08183272B2
1-[2-Bromo-3-(difluoromethoxy)phenyl]ethanone
1-(2-Bromo-3-hydroxy phenyl)ethanone (6.50 g, 30.2 mmol), which had been obtained in Reference example 1(1c), and copper (I) iodide (2.51 g, 13.2 mmol) were dissolved in acetonitrile (150 mL), followed by addition of a solution of difluoro(fluorosulfonyl)acetic acid (50.0 g, 281 mmol) dissolved in acetonitrile (50 mL) over 1 hour and 30 minutes under heating at 55° C. Upon the completion of the dropwise addition, the reaction solution was stirred at 55° C. for 3 hours, cooled to room temperature, added with water, and then extracted with ethyl acetate/hexane (2:1, V/V). The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (neutral silica gel, hexane:ethyl acetate, 100:0-75:25, V/V and basic silica gel, hexane:ethyl acetate, 100:0-50:50, V/V) to give the title compound as a colorless oily substance (1.53 g, yield 18%).

reactant | 1-(2-Bromo-3-hydroxy phenyl)ethanone | 30.2 mmol, 6.50 g | BrC1=C(C=CC=C1O)C(C)=O | C8H7BrO2
reactant | difluoro(fluorosulfonyl)acetic acid | 281 mmol, 50.0 g | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
reactant | water | O | H2O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | copper (I) iodide | 13.2 mmol, 2.51 g | [Cu]I
product | 1-[2-Bromo-3-(difluoromethoxy)phenyl]ethanone | yield 18% | BrC1=C(C=CC=C1OC(F)F)C(C)=O | C9H7BrF2O2
